US06528525B1
(g) Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butyl-2-methylpropionate
In a similar manner to that described in Reference example 1(d), a reaction was carried out using ethyl 3-[4-(2-azidoethoxy)phenyl]-2-butyl-2-methylpropionate (2.73 g), which is the product of Reference example 10(f), and palladium on carbon (5%, 270 mg) and the reaction mixture was treated to afford the title compound (2.42 g) as a syrup.

reactant | ethyl 3-[4-(2-azidoethoxy)phenyl]-2-butyl-2-methylpropionate | 2.73 g | N(=[N+]=[N-])CCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)CCCC | C18H27N3O3
catalyst | palladium on carbon | 270 mg | [Pd] | Pd
product | Ethyl 3-[4-(2-aminoethoxy)phenyl]-2-butyl-2-methylpropionate | 2.42 g | NCCOC1=CC=C(C=C1)CC(C(=O)OCC)(C)CCCC | C18H29NO3
